US08012998B2
b) 6-{(S)-1-[(3R,4S)-4-(3-Chloro-4-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile (XII-B-6)
To a solution of 6-{(S)-1-[(3R,4S)-1-benzyl-4-(3-chloro-4-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile-48 mg (0.11 mmol) dissolved in toluene (1 mL) were added 47 mg (0.33 mmol) of 1-chloroethyl chloroformate and 43 mg (0.33 mmol) of Hunig's base. The reaction mixture was heated at 100° C. for one hour. After cooling down to RT, volatiles were removed under vacuo and the crude was dissolved in MeOH (5 mL). The reaction mixture was heated at 85° C. for 30 minutes and after cooling down to RT, volatiles were removed under vacuo and the residue was directly purified on column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 28 mg (72%) of the title compound as a light yellow oil. ES-MS m/e: 346.1 (M+H+).

reactant | 6-{(S)-1-[(3R,4S)-1-benzyl-4-(3-chloro-4-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 0.11 mmol, 48 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)F)Cl)[C@H](C)OC1=NC=C(C#N)C=C1 | C25H23ClFN3O
reactant | 1-chloroethyl chloroformate | 0.33 mmol, 47 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Hunig's base | 0.33 mmol, 43 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 6-{(S)-1-[(3R,4S)-4-(3-Chloro-4-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 28 mg, 72% | ClC=1C=C(C=CC1F)[C@@H]1[C@H](CNC1)[C@H](C)OC1=NC=C(C#N)C=C1 | C18H17ClFN3O
